US06177440B1
A solution of {9-[(3-fluorophenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester (68.3 mg, 0.162 mM) and 0.81 mL (1.6 mM) of 2 N NaOH in 8.1 mL of ethanol was stirred for 30 minutes at 25° C. The resultant white precipitate was collected by filtration, washed with a small amount of EtOH, then dried in vacuo to afford 11 mg (16%) of {9-[(3-fluorophenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid, sodium salt as a white powder. The filtrate was acidified with 1N HCl to pH=2. After cooling to 5° C., the resultant white precipitate was collected by filtration, washed with water, then dried in vacuo to afford 31 mg (47%) {9-[(3-fluorophenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid. 1H NMR (DMSO-d6) δ 7.75 (bs, 1H), 7.6 (d, 1H, J=8 Hz), 7.45 (bs, 1H), 7.4-7.25 (m, 2H), 7.05 (m, 3H), 6.95 (d, J=8 Hz, 1H), 6.9 (d, J=8 Hz, 1H), 6.45 (s, 1H), 5.65 (s, 2H), 4.8 (s, 2H), 2.4 (s, 3H). MS (ES) m/e 390, 407. Recrystallization from acetone/hexane provided an analytical sample:

reactant | {9-[(3-fluorophenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 0.162 mM, 68.3 mg | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)OCC(=O)OC)C(N)=O | C24H21FN2O4
reactant | NaOH | 1.6 mM, 0.81 mL | [OH-].[Na+]
solvent | ethanol | 8.1 mL | C(C)O | C2H6O
product | {9-[(3-fluorophenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid | 11 mg, 16% | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)OCC(=O)O)C(N)=O | C23H19FN2O4
